US07291744B2
To a solution of N-[3-(1-methyl-tetrazol-5-yl)phenyl]-N′-[(1S,2R)-2-[3-(4-fluorophenyl)propylamino]-cyclohexylmethyl]urea (98 mg), the product of Step g of Example 31, in 4 mL of CH2Cl2 was added a solution of formaldehyde in THF (excess), and the mixture was stirred for 15 minutes. Then excess amount of sodium cyanoborohydride was added, and the mixture was continued to stir for 5 hrs at room temperature. After quenching the reaction with saturated Na2CO3, it was extracted with CH2Cl2. The extract was washed with water, dried over MgSO4 and evaporated to give an oily residue. It was purified by column chromatography (silica gel, 0.6:5.494 cNH4OH/CH3OH/CH2Cl2) to give pure N-[3-(1-methyl-tetrazol-5-yl)phenyl]-N′-[(1S,2R)-2-[N-methyl-3-(4-fluorophenyl)propylamino]-cyclohexylmethyl]urea.

reactant | N-[3-(1-methyl-tetrazol-5-yl)phenyl]-N′-[(1S,2R)-2-[3-(4-fluorophenyl)propylamino]-cyclohexylmethyl]urea | 98 mg | CN1N=NN=C1C=1C=C(C=CC1)NC(=O)NC[C@H]1[C@@H](CCCC1)NCCCC1=CC=C(C=C1)F | C25H32FN7O
reactant | formaldehyde | C=O | CH2O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | N-[3-(1-methyl-tetrazol-5-yl)phenyl]-N′-[(1S,2R)-2-[N-methyl-3-(4-fluorophenyl)propylamino]-cyclohexylmethyl]urea | CN1N=NN=C1C=1C=C(C=CC1)NC(=O)NC[C@H]1[C@@H](CCCC1)N(C)CCCC1=CC=C(C=C1)F | C26H34FN7O
